US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5,7-difluoro-1-benzofuran-2-carboxamide
55 mg (0.28 mmol) of 5,7-difluoro-1-benzofuran-2-carboxylic acid, 50 mg (0.25 mmol) of (R)-3-aminoquinuclidine dihydrochloride, 114.6 mg (0.3 mmol) of HATU, 117 mg (0.9 mmol) of N,N-diisopropylethylamine and 2.0 ml of DMF are reacted according to the general procedure (variant B). DMF is removed under reduced pressure and the crude product is dissolved in 1N aqueous sodium hydroxide solution. The aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over magnesium sulfate and the solvent is removed under reduced pressure using a rotary evaporator. The crude product is taken up in methanol and, together with acidic ion exchange resin (Dowex WX2-200), shaken for about 20 min. The loaded ion exchanger is washed three times with in each case 30 ml of methanol, then with water, again with methanol, with dichloromethane and finally again with methanol. The product is eluted with methanol/triethylamine 95:5. The solvent is removed under reduced pressure using a rotary evaporator. 40 mg (52% of theory) of the title compound are isolated.

reactant | 5,7-difluoro-1-benzofuran-2-carboxylic acid | 0.28 mmol, 55 mg | FC=1C=C(C2=C(C=C(O2)C(=O)O)C1)F | C9H4F2O3
reactant | (R)-3-aminoquinuclidine dihydrochloride | 0.25 mmol, 50 mg | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | HATU | 0.3 mmol, 114.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.9 mmol, 117 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5,7-difluoro-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1F)F | C16H16F2N2O2
